US06906072B1
Reference Example 43 2-(3-formyl-2-thienyl)-4-methylbutyronitrile
2.16 g (9.10 mmol) of 2-[3-(1,3-dioxolan-2-yl)-2-thienyl]-4-methylbutyronitrile was dissolved in 40 ml of acetone, 115 ml of 5N HCl was added, and the mixture was heated at 70° C. for 3 minutes. After completion of the reaction, brine was added, and the mixture was extracted with ethyl acetate. The organic layer was washed with brine, dried over magnesium sulfate and evaporated, to give a crude product. The crude product was subjected to 75 g of silica gel (ethyl acetate:hexane=1:2), to give 1.66 g (8.58 mmol, 94.3%) of the title compound as a brown oil.

reactant | 2-[3-(1,3-dioxolan-2-yl)-2-thienyl]-4-methylbutyronitrile | 9.10 mmol, 2.16 g | O1C(OCC1)C1=C(SC=C1)C(C#N)CCC | C12H15NO2S
reactant | HCl | 5N, 115 ml | Cl | ClH
solvent | acetone | 40 ml | CC(=O)C | C3H6O
solvent | brine | [Cl-].[Na+].O
product | 2-(3-formyl-2-thienyl)-4-methylbutyronitrile | 8.58 mmol, 1.66 g, 94.3% | C(=O)C1=C(SC=C1)C(C#N)CCC | C10H11NOS
